US06255540B1
2-Phenyl-2-benzyloxy-1,3-dihydroxypropane (6).
2-Phenyl-1,3-dibenzoyloxy-2-hydroxypropane (2.47 g, 7 mmol) was dissolved in 20 mL of anhydrous tetrahydrofuran (THF) under N2. The solution was stirred over a dry ice-acetone bath (ca. −60° C.) while 0.30 g (7.8 mmol) of sodium hydride (NaH) was added as a 60% oil suspension. The mixture was stirred until all of the NaH had dissolved (ca. 30 min while keeping the temperature below −10° C.). The reaction medium was again cooled to ca. −60° C. afterwhich benzylbromide (0.95 mL, 8 mmol) and benzyltributylammonium bromide (0.05 g as catalyst) were added. The cooling bath was removed and the reaction medium stirred overnight (ca. 15 hrs.). The medium was then treated with 5 mL acetic acid, diluted with 50 mL of ethyl acetate and partitioned three times with water (3×10 mL). The organic phase was dried and evaporated under reduced pressure. The residue was chromatographed on a silica gel column (400 mL volume) deploying hexane/ethyl acetate (48/1) as the eluant. Fractions containing material with Rf≈0.4 (hexane/ethyl acetate, 4/1)were combined, dried and evaporated. 1.38 g (ca. 42%) of crude, tri-substituted intermediate was obtained whose 1H NMR showed an appropriate ratio of aryl to aliphatic protons. This material was then dissolved in 10 mL methanol and treated with ca. 5 mL of 1N NaOH while assuring that the pH was maintained at ca. 10-11. After 2 hours the methanol was evaporated under reduced pressure. The residue was treated with 50 mL of water and then extracted with 50 mL of ethyl acetate. The ethyl acetate solution was partitioned twice with saturated sodium bicarbonate (2×20 mL), twice with water (2×20 mL), dried and evaporated under reduced pressure. The resulting oil (ca. 1.16 g) was chromatographed on a silica gel column (100 mL volume) deploying hexane/ethyl acetate (2/1) as the eluant. Fractions containing material with Rf≈0.3 (hexane/ethyl acetate, 1/1) were combined, dried and concentrated until just turbid. 0.3 g (16% overall) of crystals were obtained upon standing at room temperature (ca. 20° C.): mp 83-86° C.; 1H NMR 7.35 (m, 10H), 4.41 (s, 2H), 4.07 (m, 4H); IR ca. 3300 cm−1 (brd), no evidence for carbonyl.

reactant | 2-Phenyl-1,3-dibenzoyloxy-2-hydroxypropane | 7 mmol, 2.47 g | C1(=CC=CC=C1)C(COC(C1=CC=CC=C1)=O)(COC(C1=CC=CC=C1)=O)O | C23H20O5
reactant | sodium hydride | 7.8 mmol, 0.30 g | [H-].[Na+]
reactant | benzylbromide | 8 mmol, 0.95 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaOH | 1N, ca. 5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | benzyltributylammonium bromide | 0.05 g | [Br-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | methanol | 10 mL | CO | CH4O
product | 2-Phenyl-2-benzyloxy-1,3-dihydroxypropane | C1(=CC=CC=C1)C(CO)(CO)OCC1=CC=CC=C1 | C16H18O3
